US05068231
N-Methyl-3-phenoxy-1-azetidinecarboxamide
The compound was prepared from the methane sulfonate of 3-phenoxyazetidine and methylisocyanate as described in Example 1 of U.S. Pat. No. 4,226,861, m.p. 139°-141° C.

reactant | methane sulfonate | CS(=O)(=O)[O-]
reactant | 3-phenoxyazetidine | O(C1=CC=CC=C1)C1CNC1 | C9H11NO
reactant | methylisocyanate | CN=C=O | C2H3NO
product | N-Methyl-3-phenoxy-1-azetidinecarboxamide | CNC(=O)N1CC(C1)OC1=CC=CC=C1 | C11H14N2O2
